US05432182
A solution of 3-butyryl-8-(4-methoxybenzoyloxymethyl)-4(1H)-quinolone (5.75 g, 15.1 mmol) in phosphoryl chloride (75 ml) was heated at reflux for 30 minutes, the phosphoryl chloride evaporated in vacuo, the residue poured onto ice, neutralised with sodium bicarbonate, and extracted into dichloromethane. Drying, evaporation, and trituration with ether gave the crude 3-butyryl-4-chloro-8-(4-methoxy-benzoyloxymethyl)quinoline, which was used without further purification.

reactant | 3-butyryl-8-(4-methoxybenzoyloxymethyl)-4(1H)-quinolone | 15.1 mmol, 5.75 g | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)COC(C1=CC=C(C=C1)OC)=O | C22H21NO5
reactant | phosphoryl chloride | 75 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-butyryl-4-chloro-8-(4-methoxy-benzoyloxymethyl)quinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)COC(C1=CC=C(C=C1)OC)=O | C22H20ClNO4
